US07786165B2
ethyl 3-{2-fluoro-4-[({4′-[(3-methoxy-1-methyl-1H-pyrazol-5-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]phenyl}propanoate
To a solution of ethyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate (0.50 g, 1.2 mmol), (3-methoxy-1-methyl-1H-pyrazol-5-yl)methanol (0.17 g, 1.2 mmol) and tributylphosphine (0.59 mL, 2.4 mmol) in tetrahydrofuran (30 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.60 g, 2.4 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, diisopropyl ether was added to the residue, and the resultant insoluble material was filtered off. The filtrate was concentrated and the residue was purified by silica gel column chromatography (40% ethyl acetate/hexane) to give the title compound (0.44 g, yield 68%) as a colorless oil.

reactant | ethyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 1.2 mmol, 0.50 g | FC1=C(C=CC(=C1)NCC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C26H28FNO3
reactant | (3-methoxy-1-methyl-1H-pyrazol-5-yl)methanol | 1.2 mmol, 0.17 g | COC1=NN(C(=C1)CO)C | C6H10N2O2
reactant | tributylphosphine | 2.4 mmol, 0.59 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.4 mmol, 0.60 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl 3-{2-fluoro-4-[({4′-[(3-methoxy-1-methyl-1H-pyrazol-5-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]phenyl}propanoate | 0.44 g, yield 68% | FC1=C(C=CC(=C1)NCC=1C=C(C=CC1)C1=C(C=C(C=C1C)OCC1=CC(=NN1C)OC)C)CCC(=O)OCC | C32H36FN3O4
